US07964643B2
4′-Ethoxybiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide (ABD-297)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide and 4-ethoxyphenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 14.7, 22.6, 28.9, 32.0, 42.6, 60.5, 63.2, 115.0, 126.6, 127.1, 128.2, 130.6, 138.4, 143.5 and 158.9.

reactant | 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C11H16BrNO3S
reactant | 4-ethoxyphenyl boronic acid | C(C)OC1=CC=C(C=C1)B(O)O | C8H11BO3
product | 4′-Ethoxybiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCC | C19H25NO4S
